data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:9](=[CH:21][CH3:15])([O-:23])[O-:24].[O:1]=[S:29](=[O:2])([c:14]1[cH:4][cH:10][c:19]([CH3:30])[cH:11][cH:5]1)[n:20]1[cH:13][c:17]([N+:16](=[O:6])[O-:7])[c:18]2[cH:8][cH:25][c:12]([N+:28](=[O:26])[O-:27])[cH:3][c:22]21>>[O:1]=[S:29](=[O:2])([c:14]1[cH:4][cH:10][c:19]([CH3:30])[cH:11][cH:5]1)[N:20]1[CH:13]([CH:21]([N+:9](=[O:23])[O-:24])[CH3:15])[C:17](=[N+:16]([O-:6])[O-:7])[c:18]2[cH:8][cH:25][c:12]([N+:28](=[O:26])[O-:27])[cH:3][c:22]21", "epd": [["LP-/Pi+", [23], [9, 23]], ["Pi-/Sigma+", [21, 9], [21, 13]], ["Pi-/Pi+", [13, 17], [17, 16]], ["Pi-/LP+", [16, 6], [6]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[c:1]1([B-:28]2([c:29]3[cH:21][c:8]([C:3]([F:35])([F:36])[F:37])[cH:11][c:9]([C:4]([F:38])([F:39])[F:40])[cH:22]3)[O:31][CH2:42][C:23]([CH3:16])([CH3:17])[CH2:43][O:32]2)[s:10][c:5]([CH3:30])[cH:2][cH:13]1.[cH:6]1[cH:19][cH:7][c:12]2[c:20]([o+:14][c:18](-[c:34]3[cH:26][cH:24][cH:41][cH:25][cH:27]3)[cH:15][cH:33]2)[cH:44]1>>[C:3]([c:8]1[cH:11][c:9]([C:4]([F:38])([F:39])[F:40])[cH:22][c:29]([B-:28]2=[O+:31][CH2:42][C:23]([CH3:16])([CH3:17])[CH2:43][O:32]2)[cH:21]1)([F:35])([F:36])[F:37].[c:1]1([CH:33]2[c:12]3[cH:7][cH:19][cH:6][cH:44][c:20]3[O:14][C:18]([c:34]3[cH:26][cH:24][cH:41][cH:25][cH:27]3)=[CH:15]2)[s:10][c:5]([CH3:30])[cH:2][cH:13]1", "epd": [["LP-/Pi+", [31], [28, 31]], ["Sigma-/Sigma+", [1, 28], [1, 33]], ["Pi-/Pi+", [33, 15], [15, 18]], ["Pi-/LP+", [18, 14], [14]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:3](=[O:4])([c:12]1[cH:10][c:13]([N+:17](=[O:9])[O-:20])[cH:18][c:11]2[c:25]1[n:15][o:24][n+:33]2[O-:5])[O-:14].[cH:1]1[c:28]([CH:16]=[C:21]2[S:7][c:26]3[cH:22][cH:8][cH:19][cH:6][c:23]3[N:32]2[CH3:27])[cH:2][cH:30][cH:31][cH:29]1>>[cH:1]1[c:28]([CH:16]([CH:18]2[c:11]3[c:25]([n:15][o:24][n+:33]3[O-:5])[C:12]([N+:3](=[O:4])[O-:14])=[CH:10][C:13]2=[N+:17]([O-:9])[O-:20])[c:21]2[s:7][c:26]3[cH:22][cH:8][cH:19][cH:6][c:23]3[n+:32]2[CH3:27])[cH:2][cH:30][cH:31][cH:29]1", "epd": [["LP-/Pi+", [32], [21, 32]], ["Pi-/Sigma+", [16, 21], [16, 18]], ["Pi-/Pi+", [18, 13], [13, 17]], ["Pi-/LP+", [17, 9], [9]]]}
{"reaction_name": "Nucleophilic addition to electrophilic azo nitrogen", "rsmi": "[C:2](=[O:19])([O:33][CH2:7][c:17]1[cH:27][cH:10][cH:15][cH:13][cH:30]1)[N:37]=[N:36][C:3](=[O:20])[O:34][CH2:8][c:18]1[cH:28][cH:11][cH:16][cH:12][cH:29]1.[Li+:26].[c:1]1([CH3:38])[o:31][c:9]([B-:32]23[O:4][CH2:23][C:21]([CH3:14])([CH2:24][O:5]2)[CH2:25][O:6]3)[cH:22][cH:35]1>>[Li+:26].[O:4]1[CH2:23][C:21]2([CH3:14])[CH2:24][O:5][B:32]1[O:6][CH2:25]2.[c:1]1([CH3:38])[o:31][c:9]([N:36]([C:3](=[O:20])[O:34][CH2:8][c:18]2[cH:28][cH:11][cH:16][cH:12][cH:29]2)[N:37]=[C:2]([O-:19])[O:33][CH2:7][c:17]2[cH:27][cH:10][cH:15][cH:13][cH:30]2)[cH:22][cH:35]1", "epd": [["Sigma-/Sigma+", [9, 32], [9, 36]], ["Pi-/Pi+", [36, 37], [37, 2]], ["Pi-/LP+", [2, 19], [19]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:1][C:20](=[CH:2][c:11]1[cH:17][cH:6][cH:30][cH:7][cH:18]1)[O:29][CH2:31][CH3:14].[O:3]=[S:8](=[O:4])([C:10]([F:26])([F:27])[F:28])[c:23]1[cH:19][c:9]2[n+:12]([O-:5])[o:25][n:15][c:32]2[c:22]([N+:16]([O-:13])=[O:21])[cH:24]1>>[O:1]=[C:20]([CH:2]([c:11]1[cH:17][cH:6][cH:30][cH:7][cH:18]1)[CH:19]1[c:9]2[n+:12]([O-:5])[o:25][n:15][c:32]2[C:22](=[N+:16]([O-:13])[O-:21])[CH:24]=[C:23]1[S:8](=[O:3])(=[O:4])[C:10]([F:26])([F:27])[F:28])[O:29][CH2:31][CH3:14]", "epd": [["LP-/Pi+", [1], [20, 1]], ["Pi-/Sigma+", [2, 20], [2, 19]], ["Pi-/Pi+", [19, 23], [23, 24]], ["Pi-/Pi+", [24, 22], [22, 16]], ["Pi-/LP+", [16, 21], [21]]]}
{"reaction_name": "Peptide coupling", "rsmi": "[CH2:1]([C:2]([O:7][CH3:6])=[O:9])[NH:3][H:12].[OH:4][C:10]([CH2:5][NH2:8])=[O:11]>>[CH2:1]([C:2]([O:7][CH3:6])=[O:9])[NH:3][C:10]([CH2:5][NH2:8])=[O:11].[OH:4][H:12]", "epd": [["LP-/Sigma+", [3], [3, 10]], ["Pi-/LP+", [10, 11], [11]], ["LP-/Pi+", [11], [10, 11]], ["Sigma-/LP+", [4, 10], [4]], ["LP-/Sigma+", [4], [4, 12]], ["Sigma-/LP+", [3, 12], [3]]]}
{"reaction_name": "Lactone-forming Claisen condensation", "rsmi": "[C:1]([O:5][CH3:9])([CH2:8][CH2:6][CH2:2][O:4][H:11])=[O:10].[O-:3][CH3:7]>>[C:1]1(=[O:10])[O:4][CH2:2][CH2:6][CH2:8]1.[O-:5][CH3:9].[O:3]([CH3:7])[H:11]", "epd": [["LP-/Sigma+", [4], [1, 4]], ["Pi-/LP+", [1, 10], [10]], ["LP-/Pi+", [10], [1, 10]], ["Sigma-/LP+", [1, 5], [5]], ["LP-/Sigma+", [3], [3, 11]], ["Sigma-/LP+", [4, 11], [4]]]}
